US06410592B1
B: 7,8-Dihydro-6H-naphtho[2,3-d][1,3]dioxol-5-one
A mixture of 6,7-dihydroxytetralone (1 g), cesium carbonated (2.75 g), bromochloromethane (0.549 cm3) and acetonitrile (20 cm3) was heated to reflux with continual stirring for 4 h. Upon cooling, the resulting suspension was filtered through a pad of Dicalite® which was then washed further with ethyl acetate (50 cm3). The crude product was then purified by column chromatography (silica, eluting with dichloromethane) to afford the title compound.

reactant | 6,7-dihydroxytetralone | 1 g | OC=1C=C2CCCC(C2=CC1O)=O | C10H10O3
reactant | cesium | [Cs] | Cs
reactant | bromochloromethane | 0.549 cm3 | BrCCl | CH2BrCl
solvent | acetonitrile | 20 cm3 | C(C)#N | C2H3N
product | 7,8-Dihydro-6H-naphtho[2,3-d][1,3]dioxol-5-one | O1COC2=C1C=C1CCCC(C1=C2)=O | C11H10O3
